US07375204B2
tert-Butyl N-(2-bromo-3-pyridyl)carbamate
N-bromosuccinimide (7.51 g, 42.2 mmol) was added to an ice-cooled mixed solution of 3-aminopyridine (3.97 g, 42.2 mmol) in dimethylformamide (25 ml), and this reaction mixture was stirred at that temperature for 30 minutes. After ethyl acetate was added, the reaction mixture was washed with saturated brine and concentrated under reduced pressure. A solution of the residue in methylene chloride (20 ml) was cooled on ice, then triethylamine (3.74 ml, 26.8 mmol), a catalytic amount of dimethylaminopyridine, and di-t-butyl dicarbonate (3.08 ml, 13.4 mmol) were added to the solution, and the mixture was stirred at room temperature overnight. After concentration under reduced pressure, the residue was purified by silica gel column chromatography to give the title compound (344 mg).

reactant | N-bromosuccinimide | 42.2 mmol, 7.51 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 3-aminopyridine | 42.2 mmol, 3.97 g | NC=1C=NC=CC1 | C5H6N2
reactant | triethylamine | 26.8 mmol, 3.74 ml | C(C)N(CC)CC | C6H15N
reactant | dimethylaminopyridine | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | di-t-butyl dicarbonate | 13.4 mmol, 3.08 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-Butyl N-(2-bromo-3-pyridyl)carbamate | 344 mg | BrC1=NC=CC=C1NC(OC(C)(C)C)=O | C10H13BrN2O2
